US04258049
A mixture of 17.7 g. (0.1 mole) of 7-chloro-4-methylisoquinoline and 100 ml. of concentrated sulfuric acid is treated with 10 g. (0.1 mole) of potassium nitrate dissolved in 150 ml. of concentrated sulfuric acid. The mixture is stirred for one hour, quenched on ice, made alkaline with ammonium hydroxide and filtered to yield 7-chloro-4-methyl-8-nitroisoquinoline.

reactant | 7-chloro-4-methylisoquinoline | 0.1 mole | ClC1=CC=C2C(=CN=CC2=C1)C | C10H8ClN
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 0.1 mole | [N+](=O)([O-])[O-].[K+]
product | 7-chloro-4-methyl-8-nitroisoquinoline | ClC1=CC=C2C(=CN=CC2=C1[N+](=O)[O-])C | C10H7ClN2O2
